US05633257
(Z)-4-[2-(3-Cyclopentyloxy-4-methoxyphenyl)ethenyl]pyridine
A solution of sodium ethoxide [prepared from sodium (0.10 g, 4.50 mmol)] in ethanol (50 ml) was added over 5 min to a stirred mixture of 4-pyridine carboxaldehyde (0.44 g, 4.10 mmol) and (3-cyclopentyloxy-4-methoxyphenyl)-methyltriphenylphosphonium chloride (2.00 g, 4.08 g) in ethanol (30 ml). After 2 h, the reaction mixture was concentrated in vacuo and the residue partitioned between EtOAc (75 ml) and brine (50ml). The organic layer was separated, then dried (MgSO4) and concentrated in vacuo. A 1H n.m.r. spectrum indicated that the mixture consisted of a 3:2 mixture of (Z):(E) title compound (and triphenylphosphine oxide). A portion (0.6 g) of the mixture was subjected to chromatography (SiO2 ; hexane to EtOAc) to afford pure (Z)-title compound (0.14 g) as a pale yelow solid m.p. (Found: C, 77.18; H, 7.16; N, 4.63. C19H21NO2 requires C, 77.26; H, 7.17; N, 4.74%); δH (300 MHz; CDCl3) 1.5-1.55 (2H, br m, cyclopentyl H's), 1.65-1.9 (6H, br m, cyclopentyl H's), 3.83 (3H, s, OMe), 4.44 (1H, br m, OCHCH2), 6.40 (1H, d, J 12.2 Hz, CH=CH), 6.65-6.80 (4H, m, ArH ortho to OMe+2×ArH meta to OMe+CH=CH), 7.15 (2H, ca. d, J 6.0 Hz, pyridine H2, H6); m/z 295 (M+, 22%), 228 (15), 227 (100), 226 (94), 198 (35), 184 (15), 166 (12), 43 (19), and 41 (29).

reactant | sodium ethoxide | 4.50 mmol, 0.10 g | [O-]CC.[Na+]
reactant | 4-pyridine carboxaldehyde | 4.10 mmol, 0.44 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | (3-cyclopentyloxy-4-methoxyphenyl)-methyltriphenylphosphonium chloride | 2.00 g | [Cl-].C1(CCCC1)OC=1C=C(C=CC1OC)C1=C(C=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (Z)-4-[2-(3-Cyclopentyloxy-4-methoxyphenyl)ethenyl]pyridine | 0.14 g | C1(CCCC1)OC=1C=C(C=CC1OC)\C=C/C1=CC=NC=C1 | C19H21NO2
